US08865736B2
3-[5-Bromo-4-(4-cyano-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide
To a solution of 4-(5-Bromo-2-bromomethyl-thiazol-4-yl)-benzonitrile (0.43 g, 1.20 mmol) in 5 ml of anhydrous DMF was added 2,6-difluoro-3-hydroxy-benzamide (0.20 g, 1.20 mmol) and potassium carbonate (0.58 g, 4.20 mmol). The reaction mixture was stirred at 25° C. for 24 h under nitrogen atmosphere. The reaction mixture was evaporated to dryness under reduced pressure and the residue was purified by column chromatography on silica (60-120 M) using ethyl acetate/hexane (30:70) as the eluent to provide the title compound as a white solid (0.35 g, 66%). 1H NMR (DMSO-d6, 400 MHz): δ 5.57 (s, 2H), 7.13 (m, 1H), 7.44 (m, 1H), 7.89 (br s, 1H), 8.0 (d, J=8.40 Hz, 2H), 8.10 (d, J=8.40 Hz, 2H) and 8.17 (br s, 1H). MS ES+(450.09), HPLC (method I) Rt=16.127 min.

reactant | 4-(5-Bromo-2-bromomethyl-thiazol-4-yl)-benzonitrile | 1.20 mmol, 0.43 g | BrC1=C(N=C(S1)CBr)C1=CC=C(C#N)C=C1 | C11H6Br2N2S
reactant | 2,6-difluoro-3-hydroxy-benzamide | 1.20 mmol, 0.20 g | FC1=C(C(=O)N)C(=CC=C1O)F | C7H5F2NO2
reactant | potassium carbonate | 4.20 mmol, 0.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-[5-Bromo-4-(4-cyano-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide | 0.35 g, 66% | BrC1=C(N=C(S1)COC=1C(=C(C(=O)N)C(=CC1)F)F)C1=CC=C(C=C1)C#N | C18H10BrF2N3O2S
